US07820670B2
Step A: 3-Bromo-N-(3-(4-methylpiperazin-1-yl)propyl)imidazo[1,2-b]pyridazin-6-amine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and 3-(4-methylpiperazin-1-yl)propan-1-amine according to general procedure 1 providing the intermediate (200 mg, 85%) as a clear oil: Rf=0.25 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.54 (d, J=9.6 Hz, 1H), 7.39 (s, 1H), 6.67 (d, J=9.7 Hz, 1H), 3.42 (t, J=7.0 Hz, 2H), 2.53-2.50 (m, 10H), 2.29 (s, 3H), 1.91 (quin, J=6.6 Hz, 2H)

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 3-(4-methylpiperazin-1-yl)propan-1-amine | CN1CCN(CC1)CCCN | C8H19N3
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 3-Bromo-N-(3-(4-methylpiperazin-1-yl)propyl)imidazo[1,2-b]pyridazin-6-amine | BrC1=CN=C2N1N=C(C=C2)NCCCN2CCN(CC2)C | C14H21BrN6
